US04868202
115.5 g of N-ethoxycarbonylethyl-N-formylglycine ethyl ester are dissolved in 150 ml of ethanol, and the solution is cooled to 0° C. To it is then added dropwise a mixture of 28.0 g of potassium hydroxide, 60 ml of water and 120 ml of ethanol. The reaction mixture is stirred for 18 h at RT, and is subsequently concentrated by evaporation under reduced pressure. After the addition of a small amount of water, the mixture is acidified with concentrated hydrochloric acid to pH 1. By extraction with chloroform, drying, and concentration of the organic phase by evaporation,there is obtained N-ethoxycarbonylethyl-N-formylglycine in the form of a yellowish oil (compound No. 1.3).

reactant | N-ethoxycarbonylethyl-N-formylglycine ethyl ester | 115.5 g | C(C)OC(CN(C=O)CCC(=O)OCC)=O | C10H17NO5
reactant | potassium hydroxide | 28.0 g | [OH-].[K+]
reactant | water | 60 ml | O | H2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | N-ethoxycarbonylethyl-N-formylglycine | C(C)OC(=O)CCN(CC(=O)O)C=O | C8H13NO5
